US09340556B2
To a solution of ethyl 1-ethyl-5-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (65 g, 201 mmol) in Dichloromethane (DCM) (300 mL) was added BBr3 (95 mL, 1005 mmol) at −78° C. The mixture was allowed to warm up to rt, and stirred at 25° C. overnight. LCMS indicated completion of the reaction. The mixture was diluted with MeOH and concentrated to dryness. The same process was repeated several times to afford 1-ethyl-5-fluoro-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (48 g, 180 mmol, 89% yield) as yellow solid. The crude product was a mixture of acid and small amount of methyl ester, which was used in next step reaction without further purification. LCMS: (M+H)+: 268.0.

reactant | ethyl 1-ethyl-5-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 201 mmol, 65 g | C(C)N1C=C(C(C2=C(C(=C(C=C12)OC)OC)F)=O)C(=O)OCC | C16H18FNO5
reactant | BBr3 | 1005 mmol, 95 mL | B(Br)(Br)Br | BBr3
solvent | Dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 1-ethyl-5-fluoro-6,7-dihydroxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 180 mmol, 48 g, 89% yield | C(C)N1C=C(C(C2=C(C(=C(C=C12)O)O)F)=O)C(=O)O | C12H10FNO5
